US08648200B2
6-(Difluoromethyl)-N-methoxy-N-methyl-pyridine-3-carboxamide
Combine 5-bromo-2-(difluoromethyl)pyridine (5.00 g, 24.03 mmol), N,O-dimethylhydroxylamine hydrochloride (3.52 g, 36.09 mmol), palladium(II) acetate (0.162 g, 0.722 mmol), 4,5-bis(diphenylphosphino)-9,9-dimethylxanthene (0.695 g, 1.201 mmol), and potassium phosphate (tribasic) (15.3 g, 72.07 mmol) in m-xylene (50 mL). Purge the reaction vessel with carbon monoxide gas. Heat the solution to 100° C., and stir under an atmosphere of carbon monoxide for 16 hours. Safely purge the vessel in a well-ventilated area with nitrogen until it is free of carbon monoxide. Add water (200 mL) to quench the reaction. Adjust the pH of the mixture to 7 with a saturated sodium bicarbonate aqueous solution. Extract the mixture with EtOAc. Dry the combined organic extracts over sodium sulfate; filter; collect the filtrate; and concentrate the filtrate under reduced pressure. Purify the resulting residue by silica gel chromatography eluting with a 2:1 ratio of petroleum ether to EtOAc to give the title compound (2.5 g, 48% yield) as a clear oil. LCMS (m/z) 216 (M+1).

reactant | 5-bromo-2-(difluoromethyl)pyridine | 24.03 mmol, 5.00 g | BrC=1C=CC(=NC1)C(F)F | C6H4BrF2N
reactant | N,O-dimethylhydroxylamine hydrochloride | 36.09 mmol, 3.52 g | Cl.CNOC
reactant | 4,5-bis(diphenylphosphino)-9,9-dimethylxanthene | 1.201 mmol, 0.695 g | C1(=CC=CC=C1)P(C1=CC=CC=2C(C3=CC=CC(=C3OC12)P(C1=CC=CC=C1)C1=CC=CC=C1)(C)C)C1=CC=CC=C1 | C39H32OP2
reactant | potassium phosphate | 72.07 mmol, 15.3 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | m-xylene | 50 mL | C1(=CC(=CC=C1)C)C | C8H10
catalyst | palladium(II) acetate | 0.722 mmol, 0.162 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 6-(Difluoromethyl)-N-methoxy-N-methyl-pyridine-3-carboxamide | 2.5 g, 48% yield | FC(C1=CC=C(C=N1)C(=O)N(C)OC)F | C9H10F2N2O2
